US04719200
L-Alanyl-L-prolyl-L-proline benzylester hydrochloride (2.46 g, 6 m mole) was dissolved in dimethylformamide (10 ml) and triethyl amine (0.48 ml, 6 m mole) was added thereto while cooling to neutralize the solution, and then benzyloxycarbonylglycine N-hydroxysuccinimideester (2.02 g, 6.6 m mole) was added thereto. The reaction solution was stirred for 2 days while it had been adjusted to pH around 7 with triethyl amine, and ethyl acetate (150 ml) was added thereto and the solution was washed with 1N hydrochloric acid, 5% aqueous sodium bicarbonate and water in order. The ethyl acetate layer was dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure to give a residue. The thus obtained residue was recrystallized with ethyl acetate to give N-benzyloxycarbonyl glycyl-L-alanyl-L-prolyl-L-proline benzylester (1.3 g). The product as produced above (1.2 g) was dissolved in methanol (50 ml) and then, hydrogen gas was passed through the solution in the presence of palladium-carbon as a catalyst for 3 hours. The catalyst was separated by filtration and the solvent was distilled off. The thus obtained residue was recrystallized with methanol-ether to give glycyl-L-alanyl-L-prolyl-L-proline (688 mg).

reactant | L-Alanyl-L-prolyl-L-proline benzylester hydrochloride | 2.46 g | Cl.C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@H]1N(CCC1)C([C@@H](N)C)=O)=O)=O
reactant | triethyl amine | 0.48 ml | C(C)N(CC)CC | C6H15N
reactant | benzyloxycarbonylglycine | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-benzyloxycarbonyl glycyl-L-alanyl-L-prolyl-L-proline benzylester | 1.3 g | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@H]1N(CCC1)C([C@@H](NC(CNC(=O)OCC1=CC=CC=C1)=O)C)=O)=O)=O | C30H36N4O7
